US08222281B2
(22A) 4-{[8-(Trifluoromethyl)quinolin-4-yl]oxy}benzaldehyde
4-Chloro-8-(trifluoromethyl)quinoline (500 mg, 2.16 mmol), 4-hydroxybenzaldehyde (264 mg, 2.16 mmol), and cesium carbonate (845 mg, 2.59 mmol) were dissolved in N,N-dimethylformamide (20 mL), and the resulting mixture was stirred at 100° C. for 5 hours. Water was added to the reaction solution, and the organic matter was extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, then dried over anhydrous magnesium sulfate and filtered. Then, the solvent was distilled off under reduced pressure, whereby a crude product was obtained. This crude product was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 70:30 (v/v)), whereby the objective title compound was obtained as a white solid (680 mg, yield: 99%).

reactant | 4-Chloro-8-(trifluoromethyl)quinoline | 2.16 mmol, 500 mg | ClC1=CC=NC2=C(C=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 4-hydroxybenzaldehyde | 2.16 mmol, 264 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cesium carbonate | 2.59 mmol, 845 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-{[8-(Trifluoromethyl)quinolin-4-yl]oxy}benzaldehyde | 680 mg, yield: 99% | FC(C=1C=CC=C2C(=CC=NC12)OC1=CC=C(C=O)C=C1)(F)F | C17H10F3NO2
